US08022099B2
e) [(3RS,4SR)-4-(4-Chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine
To a stirred solution of [(3RS,4SR)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine (145 mg, 0.29 mmol) in CH3CN (2 ml) at RT, was added 2,2,2-trichloroethyl chloroformate (0.06 ml, 0.44 mmol). The reaction mixture was stirred at RT for 3 hours, concentrated under vacuo. The residue was dissolved in AcOH (3 ml) and zinc dust (60 mg) was added portion wise over 3 hours. The solvent was evaporated, the residue diluted in EtOAc and the organic phase was washed with an aqueous solution of NaHCO3. The organic phase was dried over Na2SO4, concentrated under vacuo to afford 80 mg (67%) of the tile compound as a colorless oil. ES-MS m/e: 405.3 (M+H+).

reactant | [(3RS,4SR)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | 0.29 mmol, 145 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)F)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F | C26H24ClF5N2
reactant | 2,2,2-trichloroethyl chloroformate | 0.44 mmol, 0.06 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | CH3CN | 2 ml | CC#N | C2H3N
product | [(3RS,4SR)-4-(4-Chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | 80 mg, 67% | ClC1=C(C=C(C=C1)C1C(CNC1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F)F | C19H18ClF5N2
